US07129238B2
In analogy to example 16.4, (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-hydroxy-phenyl)-2-methoxy-acetamide was alkylated with 2-iodopropane and cesium carbonate in DMF to give (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-isopropoxy-phenyl)-2-methoxy-acetamide. Light yellow oil. MS 357.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-hydroxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)O)F)=O)C=C1 | C17H15FN2O3
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-isopropoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)OC(C)C)F)=O)C=C1 | C20H21FN2O3
